US05298641
BE A 672 867 disclosed the conversion of sodium in tetrabutyltin with tributyltin chloride followed by a complicated process which yields 93% of hexabutyl distannane.

reactant | sodium | [Na] | Na
reactant | tributyltin chloride | C(CCC)[Sn](CCCC)(CCCC)Cl
solvent | tetrabutyltin | C(CCC)[Sn](CCCC)(CCCC)CCCC
product | hexabutyl distannane | 93% | C(CCC)[Sn]([Sn](CCCC)(CCCC)CCCC)(CCCC)CCCC | InChI=1S/6C4H9.2Sn/c6*1-3-4-2;;/h6*1,3-4H2,2H3;;
